* PTM NMOS 45nm Characteristics

* Include Model Files
.include ../lib/45nm_NMOS_bulk33121.sp

* Set Ambient Temperature
.option TEMP=27C

* Voltage Sources
*vx..x <positive terminal> <negative terminal> <parameters>
vd          drain               gnd                 dc 1.2
vg          gate                gnd                 dc 0.6
vb          bulk                gnd                 dc 0.0

* MOSFET
*mx..x <drain> <gate> <source> <bulk> <model name> <parameters>
mn0     drain   gate    gnd     bulk        ptmn    W=1u L=150n

* DC Sweep 0.0 ≤ V_DS ≤ 1.2 and 0.0 ≤ V_GS ≤ 1.2
.dc vd 0 1.2 0.01 vg 0 1.2 0.01

* Save all Operating Point Paramters
.save @mn0[W] @mn0[L]
+ @mn0[vds] @mn0[vgs] @mn0[vbs] @mn0[vth] @mn0[vdsat]
+ @mn0[id]  @mn0[gbs] @mn0[gbd] @mn0[gds] @mn0[gm] @mn0[gmbs]
+ @mn0[cbb] @mn0[csb] @mn0[cdb] @mn0[cgb]
+ @mn0[css] @mn0[csd] @mn0[csg] @mn0[cds]
+ @mn0[cdd] @mn0[cdg] @mn0[cbs] @mn0[cbd]
+ @mn0[cbg] @mn0[cgd] @mn0[cgs] @mn0[cgg]

* Simulation Control
.control
*    option numdgt=7
*    listing e

    set controlswait
    set filetype=ascii
    set wr_vecnames
    set wr_singlescale
    set appendwrite

    compose widths  log=10 start=50n stop=50.0u
    compose lengths log=10 start=50n stop=5.0u
    compose bulks   start=0.0 stop=-1.0 step=-0.1

    let counter = 0

    foreach wid $&widths
        alter @mn0[w] = $wid

        foreach len $&lengths
            alter @mn0[L] = $len

            foreach blk $&bulks
                alter vb dc = $blk

                run

                wrdata ../../data/ptmn45.out @mn0[W] @mn0[L]
                + @mn0[vds] @mn0[vgs] @mn0[vbs] @mn0[vth] @mn0[vdsat]
                + @mn0[id]  @mn0[gbs] @mn0[gbd] @mn0[gds] @mn0[gm] @mn0[gmbs]
                + @mn0[cbb] @mn0[csb] @mn0[cdb] @mn0[cgb]
                + @mn0[css] @mn0[csd] @mn0[csg] @mn0[cds]
                + @mn0[cdd] @mn0[cdg] @mn0[cbs] @mn0[cbd]
                + @mn0[cbg] @mn0[cgd] @mn0[cgs] @mn0[cgg]

                unset wr_vecnames

                let counter = counter + 1
                echo ~~~~~~~~~~~~~~~~~~~~~~~~~~~
                echo Iteration $&counter Complete
                echo ~~~~~~~~~~~~~~~~~~~~~~~~~~~
            end
        end
    end

.endc

.end
